US08222248B2
To a solution of 4-bromomethyl-3-nitrobenzoic acid (2.00 g, 7.69 mmol), benzyl alcohol (796 mL, 832 mg, 7.69 mmol) and 4-dimethylaminopyridine (9.4 mg, 77 μmol) in dichloromethane (5 mL) was added DCC (1.59 g, 7.71 mmol) and the mixture was stirred at ambient temperature for 3 h. The mixture was filtered and the solvent was removed under reduced pressure. The residue was purified by chromatography using a 0-30% gradient of heptane/ethyl acetate gave benzyl 4-bromomethyl-3-nitrobenzoate as an oil.

reactant | 4-bromomethyl-3-nitrobenzoic acid | 7.69 mmol, 2.00 g | BrCC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H6BrNO4
reactant | benzyl alcohol | 7.69 mmol, 796 mL, 832 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | DCC | 7.71 mmol, 1.59 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | 4-dimethylaminopyridine | 77 μmol, 9.4 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | benzyl 4-bromomethyl-3-nitrobenzoate | BrCC1=C(C=C(C(=O)OCC2=CC=CC=C2)C=C1)[N+](=O)[O-] | C15H12BrNO4
